US05650422
To a solution of 8.0 ml (0.053 mol) of tetramethyl-ethylenediamine (TMEDA) in 350 ml of THF at -70° C. was added 42 ml (0.055 mol) of a 1.3M solution of s-butyl lithium in hexane and the mixture was stirred for fifteen minutes. To the solution was added dropwise with stirring a solution of 10.36 g (0.050 mol) of 2-methoxy-N,N-diethylbenzamide in 150 ml of THF while maintaining the temperature at -60° C. or below and sulfur dioxide then bubbled into the reaction mixture, keeping the reaction temperature below -50° C. until the reaction mixture was acid to wet litmus paper. The mixture was then stirred at ambient temperature for two hours, diluted with 450 ml of hexane, and the solid material which had separated was collected, dissolved in 200 ml of water and the mixture treated with 65 g of sodium acetate, and 21.5 g (0.19 mol) of hydroxylamine-O-sulfonic acid was added in portions with stirring. The white solid which separated was collected and dried to give 7.04 g (49%) of 2-aminosulfonyl-6-methoxy-N,N-diethylbenzamide, mp 190°-194.5° C.

reactant | tetramethyl-ethylenediamine | 0.053 mol, 8.0 ml | CN(CCN(C)C)C | C6H16N2
reactant | s-butyl lithium | C(C)(CC)[Li]
reactant | 2-methoxy-N,N-diethylbenzamide | 0.050 mol, 10.36 g | COC1=C(C(=O)N(CC)CC)C=CC=C1 | C12H17NO2
reactant | sodium acetate | 65 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine-O-sulfonic acid | 0.19 mol, 21.5 g | NOS(=O)(=O)O | H3NO4S
solvent | THF | 350 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 2-aminosulfonyl-6-methoxy-N,N-diethylbenzamide | 7.04 g, 49% | NS(=O)(=O)C1=C(C(=O)N(CC)CC)C(=CC=C1)OC | C12H18N2O4S
